US09315490B2
(1-(5-(2-Fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)((S)-3-methoxypyrrolidin-1-yl)methanone
Amide coupling of 1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indole-6-carboxylic acid with (S)-3-methoxypyrrolidine utilizing HATU as coupling reagent. White solid. Yield: 100 mg (85% of theory)

reactant | 1-(5-(2-fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indole-6-carboxylic acid | FC1=C(C=CC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)O)S(=O)C | C20H14FN3O3S
reactant | (S)-3-methoxypyrrolidine | CO[C@@H]1CNCC1 | C5H11NO
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | (1-(5-(2-Fluorophenyl)pyrimidin-2-yl)-3-(methylsulfinyl)-1H-indol-6-yl)((S)-3-methoxypyrrolidin-1-yl)methanone | FC1=C(C=CC=C1)C=1C=NC(=NC1)N1C=C(C2=CC=C(C=C12)C(=O)N1C[C@H](CC1)OC)S(=O)C | C25H23FN4O3S
